US07763612B2
A mixture of methyl 6-(2-chloro-4-[(2-furanylmethyl)amino]-5-(2,2,2-trichloroethoxycarbonyl)phenylsulfonamidomethoxy)(6-oxo)hexanoate (0.060 mole), sodium cyanide (0.060 mole) and hexamethylphosphoramide (Aldrich) (100 mL) is stirred at 75° C. for 24 hours. The volatiles are removed by spin evaporation in vacuo. The residue is dissolved in cold water, and the solution is washed with diethyl ether. The aqueous solution is cooled in an ice bath and acidified by dropwise addition of 1.0 N hydrochloric acid solution (60 mL). The resulting solid may be collected and recrystallized to give 6-(2-chloro-4-[(2-furanylmethyl)amino]-5-(2,2,2-trichloroethoxycarbonyl)phenylsulfonamidomethoxy)(6-oxo)hexanoic acid. See Greene et al., Protective Groups in Organic Synthesis, Second Edition, (1991) p. 232.

reactant | methyl 6-(2-chloro-4-[(2-furanylmethyl)amino]-5-(2,2,2-trichloroethoxycarbonyl)phenylsulfonamidomethoxy)(6-oxo)hexanoate | 0.060 mole | ClC1=C(C=C(C(=C1)NCC=1OC=CC1)C(=O)OCC(Cl)(Cl)Cl)S(=O)(=O)NCOC(CCCCC(=O)OC)=O | C22H24Cl4N2O9S
reactant | sodium cyanide | 0.060 mole | [C-]#N.[Na+]
solvent | hexamethylphosphoramide | 100 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 6-(2-chloro-4-[(2-furanylmethyl)amino]-5-(2,2,2-trichloroethoxycarbonyl)phenylsulfonamidomethoxy)(6-oxo)hexanoic acid | ClC1=C(C=C(C(=C1)NCC=1OC=CC1)C(=O)OCC(Cl)(Cl)Cl)S(=O)(=O)NCOC(CCCCC(=O)O)=O | C21H22Cl4N2O9S
